US08703758B2
D) tert-butyl 4-(3-hydroxybutyl)piperidine-1-carboxylate
To a solution of tert-butyl 4-(3-oxobutyl)piperidine-1-carboxylate (3.7 g) in ethanol (40 mL) was added sodium borohydride (550 mg) at room temperature, and the mixture was stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure and the residue was dissolved in ethyl acetate and water. The organic layer was separated, washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (3.71 g).

reactant | tert-butyl 4-(3-oxobutyl)piperidine-1-carboxylate | 3.7 g | O=C(CCC1CCN(CC1)C(=O)OC(C)(C)C)C | C14H25NO3
reactant | sodium borohydride | 550 mg | [BH4-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | tert-butyl 4-(3-hydroxybutyl)piperidine-1-carboxylate | 3.71 g | OC(CCC1CCN(CC1)C(=O)OC(C)(C)C)C | C14H27NO3
